* C:\Users\olive\OneDrive\文档\GitHub\ELEC2320\Lab 1\Task 1.asc
* Generated by LTspice 24.1.10 for Windows.
V1 Vs+ 0 5
V2 Vs- 0 5
Ra N003 x 2k
Rb N003 -y 1k
R3 N003 z 4k
X§U1 N003 N001 Vs+ Vs- N002 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
R1 N002 N001 6k
R2 N001 0 1k
V3 z 0 SINE(0 1 50)
R4 Vs+ N004 4k
R5 N004 0 1k
X§U2 0 N005 Vs+ Vs- -y level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
R8 N005 x 10k
R10 N005 -y 10k
X§U3 N004 x Vs+ Vs- x level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
.tran 50m
.lib UniversalOpAmp1.lib
.backanno
.end
