* C:\Users\olive\OneDrive\文档\GitHub\ELEC2320\Lab 1\Task2.asc
* Generated by LTspice 24.1.10 for Windows.
R1 N001 0 1k
R2 vo N001 470
R3 vo N002 470
R4 N002 vin 1k
RL N003 N002 510
V1 vs+ 0 10
vin vin 0 -10
X§U1 N002 N001 vs+ vs- vo level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
X§U2 0 N003 vs+ vs- N004 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
R5 N004 vs- 500
Rf N004 N003 510
X§U3 0 N006 vs+ vs- N005 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
R6 N006 N004 10k
R7 N005 N006 10k
V2 0 vs- 10
.op
.lib UniversalOpAmp1.lib
.backanno
.end
