* C:\Users\olive\OneDrive\文档\GitHub\ELEC2320\Lab 2\task1.asc
* Generated by LTspice 24.1.10 for Windows.
R1 N001 N003 90k
R2 N003 N005 10k
R3 Vcc N004 31k
R4 N004 0 18k
R5 N002 0 84k
C1 N004 Vs 5µ
C2 0 N005 5µ
C3 N001 N002 5µ
X§U1 N004 N003 Vcc 0 N001 LM324 ;§pnba In+)In-)V+)V-)OUT
Vs Vs 0 SINE(0 0.2 600 0 0 0)
Vcc Vcc 0 6
.include LM324.txt
* Vo
* Vx
* Vi
.tran 10m
.backanno
.end
