* C:\Users\olive\OneDrive\文档\GitHub\ELEC2320\Quiz 2\Att 1\Q2 a1.asc
* Generated by LTspice 24.1.10 for Windows.
V1 N001 0 10
R1 N002 N001 10
R2 N004 N002 12
R3 0 N004 15
R4 N004 N003 10
R5 0 N003 {R}
X§U1 N002 N003 NC_01 NC_02 N004 level1 Avol=1000000G GBW=1000000G Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
.tran 100m
.step param R .01 10000 10
.lib UniversalOpAmp1.lib
.backanno
.end
